US07138408B2
Step (a): Ethyl 9-(3-chlorobenzyl)-6-nitro-9H-β-carboline-3-carboxylate
The title compound was prepared by alkylation of ethyl 6-nitro-9H-β-carboline-3-carboxylate (prepared according to Settimj, et. al., J. Heterocycl. Chem., 25, 1391–1397 (1988)) with 3-chlorobenzyl chloride in a manner similar to step (a) of example 7. LCMS (APCI, M+H+): 410.1/412.1=3/1.

reactant | ethyl 6-nitro-9H-β-carboline-3-carboxylate | [N+](=O)([O-])C=1C=C2C=3C=C(N=CC3NC2=CC1)C(=O)OCC | C14H11N3O4
reactant | 3-chlorobenzyl chloride | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
product | Ethyl 9-(3-chlorobenzyl)-6-nitro-9H-β-carboline-3-carboxylate | ClC=1C=C(CN2C3=CC=C(C=C3C=3C=C(N=CC23)C(=O)OCC)[N+](=O)[O-])C=CC1 | C21H16ClN3O4
